US04689337
A solution of 4-trifluoromethoxybromobenzene (6.3 g.) in dry tetrahydrofuran (40 cm3) was added dropwise to a stirred mixture of magnesium turnings (0.62 g.), dry tetrahydrofuran (10 cm3) and a crystal of iodine under a nitrogen atmosphere. The reaction commenced after about 3 cm3 of the solution had been added and the mixture was warmed gently for a few minutes. When the addition was complete the mixture was stirred for 2 hours after which a solution of methyl 2-(1H-pyrazol-1-yl)propionate (2.0 g) in dry tetrahydrofuran (5.0 cm3) was added dropwise and the mixture then stirred for a further 2 hours at the ambient temperature. Finally the mixture was warmed to 40° C. to complete the reaction. The mixture was poured into water, acidified with dilute hydrochloric acid and extracted with two portions of diethyl ether 2×50 cm3. The extracts were combined, washed with water (3×50 cm3), dried over anhydrous magnesium sulphate and concentrated by removal of the solvent by evaporation under reduced pressure. The residual oil was subjected to purification by repeated chromatographic separation on a silica gel column eluted with a mixture of petroleum ether (boiling range 60°-80° C., 4 parts by volume) and ethyl acetate (1 part by volume) to yield 1,1-bis(4-trifluoromethoxyphenyl)-2-(1H-pyrazol-1-yl) propanol (500 mg.) as a pale yellow oil.

reactant | 4-trifluoromethoxybromobenzene | 6.3 g | FC(OC1=CC=C(C=C1)Br)(F)F | C7H4BrF3O
reactant | magnesium | 0.62 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | methyl 2-(1H-pyrazol-1-yl)propionate | 2.0 g | N1(N=CC=C1)C(C(=O)OC)C | C7H10N2O2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 40 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.0 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 cm3 | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1,1-bis(4-trifluoromethoxyphenyl)-2-(1H-pyrazol-1-yl) propanol | 500 mg | FC(OC1=CC=C(C=C1)C(C(C)N1N=CC=C1)(O)C1=CC=C(C=C1)OC(F)(F)F)(F)F | C20H16F6N2O3
